US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-4-cyano-2-n-propyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-cyano-2H-pyridazin-3-one and 1-bromopropane as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 72.6%.

reactant | 5,6-bis(4-methoxyphenyl)-4-cyano-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(NN=C1C1=CC=C(C=C1)OC)=O)C#N | C19H15N3O3
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 5,6-bis(4-Methoxyphenyl)-4-cyano-2-n-propyl-2H-pyridazin-3-one | yield of 72.6% | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CCC)=O)C#N | C22H21N3O3
